Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins / gabapentin
 
Attending: ___.
 
Chief Complaint:
"I had been noticing for a few months I wasn't planning trips." 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history and presentation, please see 
___ including Dr. ___ and Dr. ___ 
___ initial consultation note dated ___ ___s Dr. 
___ admission note dated ___.
. 
Briefly, this is a ___ year old single Caucasian woman with 
___ level education, currently retired, reportedly 
diagnosed with depression with psychotic features s/p one prior 
psychiatric hospitalization ___ years ago, no prior suicide 
attempts, medical history significant for congenital glaucoma 
s/p left eye removal, cerebral aneurysm, cataracts, who self 
presented to ___ with
concerns for ongoing hair loss and occipital neuralgia. 
. 
ED Course: patient was in excellent behavioral control and did 
not require physical or chemical restraints. 
. 
Patient seen with Dr. ___, PGY-2 and ___, 
___; of note, she was able to provide a clear and coherent 
history although tended to derail at times. Ms. ___ reported 
that she had "noticed for a few months that I wasn't planning 
trips and I traced this back to last ___ when I walked into
a tree and jolted my neck." Patient noted that after this, she 
began to suffer headaches over time and told her PCP, "who told 
me that pain doesn't radiate from the neck to the head." Patient 
reported she felt her PCP was not listening to her, and that her 
PCP prescribed ___ for her head and neck pain, which has not been 
helpful. Ms. ___ reported she had received a neurological 
workup at ___, which showed a small aneurysm, and she states she 
was diagnosed by a neurosurgeon there with occipital neuralgia. 
She reports neuro recommended she start amitriptyline or have a 
local shot to alleviate the pain, "but I'm not ready for that." 
. 
Patient went on to state that it is "hard to function with the 
head pain-- I'm worried because no one seems to be addressing 
it." States that she recently found out she also needs another 
surgery on her remaining eye, but states, "I don't feel like I 
need it yet." Interestingly, patient recalled a similar incident 
approximately ___ years ago when she began to suffer from 
headaches and dizziness. She states that because of these 
symptoms, she elected to have cataract surgery, also she states 
she realizes now that the headaches and dizziness were 
completely unrelated to the cataracts. Patient reported that 
after her cataract removal ___ years ago, she found that her 
"pupil was stretched and did not go back into place-- my vision 
wasn't as clear and it was distorted... my doctors told ___ I was 
fine, but I started to conflate my story as a child and then I 
couldn't function." Reports that she was subsequently 
hospitalized at ___ and put on Zyprexa and Prozac. Reports 
significant weight
gain on the Zyprexa and is unclear if the Prozac was helpful. 
. 
At this time, patient reports that she relates the head pain to 
an "obsession that my hair is falling out." States she had been 
"diagnosing myself" with medical conditions that can cause 
painful hair loss. She had recently seen a hair loss specialist, 
who recommended Rogaine, which she had been applying daily at 
home. She notes spending an excessive amount of time at home 
looking in the mirror to monitor her hair loss. Of note, patient 
recently discontinued the Rogaine, and states that since this, 
"my hair feels different... it's not as heavy... I'm worried I'm 
not going to recover the hair loss." 
. 
Patient noted that she tends to be anxious and obsessive, but 
states that since she retired ___ years ago, "I don't have enough 
to do." Reports she is involved at ___ Lifelong 
___ and continues to be involved in book clubs, but that 
this is not enough. Admits that she feels that being preoccupied 
with her hair and headache "helps me back away from the 
possibility there is something wrong with my eye." 
. 
Patient denies frank depression, stating she is frankly more 
anxious and obsessive than depressed. However, did admit to "not 
being happy here... it's not a happy place." Reported difficulty 
sleeping at night, stating she experiences "pins and needles up 
and down my arm." Reported energy was "okay," denied 
difficulties with appetite or changes in weight. Denies SI or 
thoughts of self harm. 
. 
On psychiatric review of systems, patient denied history of 
manic symptoms including decreased need for sleep, increased 
impulsivity, excessive energy, grandiosity. Denies history of 
psychosis including auditory or visual hallucinations, ideas of 
reference, thought insertion/thought broadcasting. Anxiety as 
noted above. Denies compulsions including excessive washing, 
checking, rituals, etc. Denied drug or alcohol use.  
. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
- Diagnoses: Major depressive episode with psychotic features
-Hospitalizations: ___ ___ for MDD w/ psychotic 
features — obsessing about recent R eye cataract surgery, 
multiple somatic symptoms that she related to this surgery but 
were not (head/neck pain, eye pain when reading, “phantom limb 
pain”)
- SA/SIB: denies/denies
- Psychiatrist: Last saw a psychiatrist ___ years ago, for ___ year 
following ___ hospitalization, currently no psychiatrist 
- Therapist: Dr. ___, has been seeing since ___ 
hospitalization
- Medication trials: Prozac, Zyprexa, Celexa; all discontinued 
due to patient’s discomfort with taking medications/concern for 
experiencing side effects
-Harm to others: Denies
-Access to weapons: Denies
. 
PAST MEDICAL HISTORY:
**PCP: Dr. ___
- ___ glaucoma, s/p L eye surgery at age ___ with 
post-operative course complicated by infection, necessitating 
removal of L eye; has prosthesis
- Cataract of R eye, s/p corrective surgery in ___ 
(precipitating ___ ___
- L ear hearing loss
- Aneurysm of 2 mm R ICA (incidental finding on ___ MRA/MRI 
brain/neck)
- Cervical spondylosis most prominent at C5-C6 level with 
moderate spinal canal narrowing
- Chronic lower back pain/degenerative disc disease
 
Social History:
PERSONAL AND SOCIAL HISTORY:
Ms. ___ was born and raised in ___ with her father, 
mother, and brother. She describes having a difficult childhood 
due to her father’s alcoholism and related food instability, 
noting he would often be in the hospital for this reason; he 
died due to complications of alcoholism when she was ___.  When 
she was ___ she underwent an “experimental surgery” for her 
congenital glaucoma on her L eye, with post-operative course 
complicated by infection, leading to removal of the L eye; she 
notes this “colored a lot of my experience” — she sought to 
prove her abilities, and has had ongoing fear of losing her 
vision.  She notes she was close to her brother when they were 
children but as they grew up/became young adults they grew 
apart; he later identified as homosexual and she did not know 
how she felt about this.  In school she described herself as a 
perfectionist, had high standards for herself, earned excellent 
grades; graduated from college and obtained Master’s degree in 
___ Science. She worked for 30+ years as a ___ and 
retired in ___. Following retirement she notes struggling to 
fill her time; does have friends she goes out with; spends the 
winters in ___. Ms. ___ notes she began dating “later in 
life” and was engaged once but was never married, has no 
children. She currently lives alone in her house in ___; 
previously lived in this house with her brother and mother prior 
to their deaths in the 1990s (brother died of AIDS-related 
complications v. suicide, mother died suddenly of MI).

SUBSTANCE USE HISTORY:
- Alcohol: denies
- Illicits: denies
- Tobacco: denies 
 
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: Mother with late onset paranoia/AH in 
___ brother with depression
-___ Use Disorders: Father and mother with alcohol use 
disorder; several cousins and other relatives with alcohol use 
disorder
-Suicide Attempts/Completed Suicides: Brother may have died by 
suicide (per OSH records)
 
Physical Exam:
Examination on Admission:

VITALS:
T 98.5, HR 77, BP 158/88, RR 20, SpO2 96% on RA

PHYSICAL EXAM:
-General: NAD
-HEENT: +prosthetic left eye, right eye with atypical pupil 
shape, sluggishly reactive, MMM, OP clear.
-Neck: Supple. No lymphadenopathy.
-Back: No significant deformity, no focal tenderness
-Lungs: CTAB; no crackles or wheezes.
-CV: RRR; no m/r/g
-Abdomen: Soft, NT, ND.
-Extremities: Well perfused. No clubbing, cyanosis, or edema.
-Skin: Warm and dry, no rash or significant lesions.

NEUROLOGICAL EXAM:
-CN: PERRL, EOMI, smile symmetric, tongue  midline, no atrophy
-Motor: moves all four extremities equally and spontaneously 
against gravity
-Deep tendon Reflexes: Bicep: 1+
-Sensation: intact to light touch in all four ext b/l
-Gait: normal station and gait; no ataxia

MENTAL STATUS EXAM:
-Appearance: well groomed woman who appears stated age, sitting 
up in chair in NAD
-Behavior: calm and cooperative with interview, makes 
appropriate eye contact, answers questions appropriately
-Mood and Affect: "overwhelmed", affect anxious, normal range of 
affect
-Thought process: linear, goal-directed, no loose associations, 
no tangentiality, +circumstantiality
-Thought Content: denies SI/HI/AVH, preoccupation with somatic 
symptoms, no delusional or paranoid thoughts apparent
-Judgment and Insight: poor/poor

COGNITIVE EXAM: 
-Attention, orientation, and executive function: accurately 
states days of the week backwards; oriented to person, ___, 
and ___
-Memory: ___ registration, ___ recall
-Fund of knowledge: able to state last 4 US presidents
-Calculations: quarters in $2.25="9"
-Speech: amount normal, rate slowed, rhythm normal, tone normal
-Language: fluent, ___

VS: 98.4 126/80 77 16 98%RA 
A/B: Appears stated age, dressed casually, excellent hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody, goal directed
M: "better" 
A: less anxious, euthymic, full range, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: Fair/fair 
 
Pertinent Results:
CBC w/ Diff:
___: WBC: 6.0
___: RBC: 4.33
___: HGB: 14.1
___: HCT: 41.2
___: MCV: 95
___: MCH: 32.6*
___: MCHC: 34.2
___: RDW: 12.2
___: Plt Count: 272
___: Neuts%: 66.2
___: Lymphs: 24.4
___: MONOS: 8.3
___: Eos: 0.3*
___: BASOS: 0.5
___: AbsNeuts: 3.99

BMP:
___: Na: 138
___: K: 4.2
___: Cl: 98
___: CO2: 23
___: BUN: 11
___: Creat: 0.5
___: Glucose: 98 (If fasting, 70-100 normal, >125 
provisional diabetes)
___: Ca: 9.4
___: Mg: 2.1
___: PO4: 3.5

TSH:
___: TSH: 2.2

Vitamin B12:
___: B12: 851

Folate:
___: Folate: 17

Vitamin D:
___: 25VitD: 36

Rapid Plasma Reagin:
___: RPR: Non-Reactive.

STox:
___: ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc: NEG

UTox:
___: Benzodiazepine: NEG
___: Barbiturate: NEG
___: Opiate: NEG
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG

UA:
___: Urine pH (Hem): 7.0
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): NEG
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): 10*
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG

UCx:
___: (Final ___: NO GROWTH. 
 
Brief Hospital Course:
This is a ___ year old single Caucasian woman with ___ level 
education, currently retired, reportedly diagnosed with 
depression with psychotic features s/p one prior psychiatric 
hospitalization ___ years ago, no prior suicide attempts, medical 
history significant for congenital glaucoma s/p left eye 
removal, cerebral aneurysm, cataracts, who self presented to 
___ with concerns for ongoing hair loss and occipital 
neuralgia.
. 
Interview with patient reveals a longstanding history of 
anxiety/obsessions in the setting of childhood glaucoma 
resulting in losing her left eye with recent worsening of mood, 
anxiety, obsessions beginning in ___ with significant 
rumination regarding her neck pain, hair loss, and eye in the 
setting of limited structure at home and recent recommendation 
for patient to have eye surgery. Mental status examination 
notable for well groomed woman who is quite pleasant, anxious on 
examination, with denial of significantly depressed mood, and 
with thought process that is linear, goal and future oriented. 
Of note, nothing to suggest psychosis on my examination-- 
although she is quite obsessive regarding her hair, neck pain, 
and other somatic symptoms, she also demonstrates good insight 
into this and is able to reality test. 
. 
Diagnostically, patient certainly meets criteria for an anxiety 
disorder with features of obsessive compulsive disorder 
(frequently checking for hair loss). There also does seem to be 
a mood component to her presentation, but I do not believe she 
meets criteria for a major depressive episode, particularly 
given her denial of persistently depressed mood and lack of 
dysthymic/dysphoric affect. Nothing in her history to suggest 
prior manic episode that would be consistent with bipolar 
disorder. Patient is in good health and medical workup was 
unremarkable; in addition, no history of substance use; I do not 
think that an underlying medical condition or substance use is 
contributing to her current presentation. 
. 
#. Legal/Safety: Upon admission, patient signed a CV, which was 
accepted. However, as patient stated she no longer wanted to be 
on an inpatient unit, she also signed a 3 day notice that 
expired on ___. Given her excellent behavioral control on 
the unit with consistent denial of suicidal ideation or thoughts 
of self harm with thought process that was notably linear, 
logical, goal and future oriented, with good attendance to 
ADL's, she did not meet criteria to file a 7&8b. Of note, she 
did not require physical or chemical restraints during her 
hospitalization. 
.  
#. Unspecified anxiety disorder: as above 
- Patient was compliant in attending groups and with meeting 
with her treatment team and participated appropriately in her 
care. 
- ___ workup including B12, RPR, and TSH was unremarkable. 
- Discussed the risks and benefits of initiating Cymbalta and 
the patient was intermittently compliant with this medication. 
However, after further discussion, patient stated she strongly 
preferred not to take an antidepressant at this time and 
declined initiation of low dose risperidone, stating she would 
prefer to utilize therapy instead, which was reasonable. 
However, during her hospitalization she did utilize low dose 
Ativan 0.5 mg, which she felt was helpful for her sleep. 
- Patient did report she found the hospitalization to be 
somewhat helpful and was able to discuss her lifelong struggle 
with anxiety, depression, and obsessive ruminations. She 
demonstrated good insight that these symptoms seemed to stem 
from a chaotic childhood as noted in the HPI and was able to 
verbalize that ultimately she was afraid of "losing my mind like 
my mother did." She was motivated to continue outpatient therapy 
and a partial program for additional structure and support.  
. 
#. Headache: as noted above 
- Patient will follow up with outpatient providers 
- ___ 600 mg po q6h prn pain 
. 
#. Glaucoma: stable during this admission 
- Continue betimol 0.5% drops for right eye 
- Patient to follow up with her outpatient ophthalmologist 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
2. Timolol Maleate 0.5% 1 DROP RIGHT EYE QHS 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  LORazepam 0.5 mg PO DAILY PRN  anxiety, insomnia  
RX *lorazepam [Ativan] 0.5 mg 1 tablet(s) by mouth daily Disp 
#*10 Tablet Refills:*0 
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  
3.  Multivitamins 1 TAB PO DAILY  
4.  Timolol Maleate 0.5% 1 DROP RIGHT EYE QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified anxiety disorder
Unspecified depressive disorder
Major depressive disorder with psychotic features, by history 

 
Discharge Condition:
VS: 98.4    126/80    77    16    98%RA   
A/B: Appears stated age, dressed casually, excellent hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody, goal directed
M: 'better' 
A: less anxious, euthymic, full range, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: Fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed -- 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs -- whether 
prescription drugs or illegal drugs -- as this can further 
worsen your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___